Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Codeine
 
Attending: ___
 
Chief Complaint:
hypoxia, ?syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female with a history of GIB, HA, HTN, Kidney stones, OA, 
osteopenia with rib fracture and pelvic fracture presenting with 
increased SOB and left sided rib pain x 1 day. 

Pt presented to ___ clinic today to establish care. 
while waiting to be seen, pt developed left sided chest pain, 
different in nature compared to her chronic chest pain 
associated with previous rib fractures. Pt described the pain as 
radiating to the shoulder and had associated shortness of 
breath. her exam in clinic was notable for tenderness over left 
sided ribs, BP 115/60, HR 68 but oxygen saturation of 63% on RA 
so she was transferred to the ED. There is also a question of 
syncope at the rheumatology office, described as a 10 minute 
period of lethargy and decreased responsiveness. No tongue 
biting, no loss of bowel or bladder function. She was alert and 
oriented immediately following the episode. Of note, pt's family 
reports that she had a fall 1 week ago at home when she missed a 
chair sitting down. At baseline, pt is wheelchair bound. She 
lives at home with her daughter and has a PCA and ___. 

In the ED, initial vs were: 98.1 64 109/56 18 99% on 4L nc. Labs 
were remarkable for WBC 3.9 (baseline), Cr 0.8 (baseline), trop 
0.04, MB 4/ Her exam was notable for pain with palpation of the 
L rib base, lungs clear. She has a chest xray which showed 
bibasilar opacities, likely atelectasis but cannot r/o 
infection. She also had a CTA which did not show PE, mild 
atelectasis at bases. She also had a CT head which showed 
extensive unchanged white matter disease. Her O2 sat in the ED 
was noted to be difficult to obtain, but was satting 100% on 2L 
prior to transfer. She was being admitted for syncope. 

On the floor, vs were 97.9 63 113/60 18 sat 100% on 2L. Pt's 
family is at bedside and state she is now back to baseline, 
which is A&O x ___, extremely hard of hearing. They confirm that 
she is DNR/DNI and was on hospice until recently. They would 
like bipap and ICU transfer if necessary. 
 
Past Medical History:
-dysphagia: 
-(a)EGD ___: Abnormal esophageal motility. There was no 
evidence of a ring , web or stricture Otherwise normal EGD to 
second part of the duodenum
-(b)cricopharyngeal alterations in ___ and ___ on video 
swalloW
-polymyositis (ESR 68 (___), CPK 213 on ___ ESR; CRP 
6.3 ___
-osteoarthritis
-pelvic fx-acute on chronic superior (anterior) and inferior 
(right) ramus fractures ___
-shoulder bursitis
-hypertension
-right tibial artery occlusive disease
-pituitary adenoma vs Rathke cleft cyst (likely incidental, seen 
___
-s/p hysterectomy
-s/p cholecystectomy 
-s/p appendectomy

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL:
Vitals- 97.9 113/60 63 18 100% 2L
General- Alert, orientedx1, no acute distress, extremely hard of 
hearing, very thin female
HEENT- Sclera anicteric, bilateral cateracts, dry mucous 
membranes, oropharynx clear
Neck-supple, JVP not elevated no LAD
Lungs- Clear to auscultation bilaterally, no wheezes, rales or 
rhonchi
CV- Regular rate and rhythm, normal S1+S2, no murmurs, rubs, 
gallops, mildly tender to palpation in the left rib cage alon 
axillary line
Abdomen-soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or gaurding, no organomegaly
GU-no foley
Ext- cool lower extremities bilaterally, non palpable DP, trace 
___ pulses
Neuro- CN2-12 grossly intact, antigravity R upper and lower 
extremities, POM of RUE limited by shoulder arthritis, LLE with 
horizontal movement in bed, at baseline per family

DISCHARGE EXAM
PHYSICAL EXAM:
Vitals: 98.4 92/60 18 100%RA
General: Sleepy, but arousable, very pleasant, very hard of 
hearing and cachectic
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs-: CTAB
CV: RRR nl S1 + S2, no m/r/g, mildly tender to palpation on left 
rib cage along axillary line
Abdomen: soft, some non-specific diffuse tenderness, 
non-distended, bowel sounds present
Ext: Warm, no edema, faintly palpable DP and ___ bilaterally
 
Pertinent Results:
___ 01:30PM BLOOD WBC-3.9* RBC-3.33* Hgb-10.2* Hct-32.9* 
MCV-99* MCH-30.7 MCHC-31.0 RDW-15.3 Plt ___
___ 01:30PM BLOOD Neuts-64.0 ___ Monos-7.5 Eos-0.1 
Baso-0.5
___ 01:30PM BLOOD Plt ___
___ 05:50PM BLOOD ___ PTT-31.2 ___
___ 01:30PM BLOOD Glucose-77 UreaN-17 Creat-0.8 Na-138 
K-4.6 Cl-101 HCO3-30 AnGap-12
___ 01:30PM BLOOD CK-MB-4 cTropnT-0.04*
___ 01:30PM BLOOD Calcium-8.9 Phos-3.7 Mg-2.3
___ 01:41PM BLOOD Lactate-1.0

TRENDED VALUES
___ 11:15AM BLOOD CK-MB-4 cTropnT-0.05*
___ 04:59AM BLOOD CK-MB-3 cTropnT-0.06*

UA negative

MICRO:
blood cultures pending
Urine cultures pending

STUDIES:
# CT HEAD W/O CONTRAST Study Date of ___
FINDINGS: There is no evidence of hemorrhage, edema, or mass 
effect. Prominent ventricles and sulci suggest age related 
involutional changes or atrophy. Confluent periventricular, 
subcortical, and subinsular white matter hypodensities are again 
seen, which likely reflects chronic small vessel ischemic 
disease and appears to be unchanged from prior. The basal 
cisterns appear patent and there is preservation of gray-white 
matter differentiation.
No fracture is identified. Visualized paranasal sinuses, mastoid 
air cells, and middle ear cavities are clear. Atherosclerotic 
mural calcification of the vertebral and internal carotid 
arteries is noted.
IMPRESSION: No definite acute intracranial process. Extensive 
white matter disease which appears unchanged from prior, but if 
clinical concern exists, MRI is more sensitive for acute stroke.

# CHEST (PA & LAT) Study Date of ___ prelim report:
FINDINGS: The lungs are well expanded. There are bibasilar 
opacities, which likely represent atelectasis, but aspiration or 
infection cannot be completely excluded. The lungs are otherwise 
clear. There is stable cardiomegaly. There is no pleural 
effusion or pneumothorax. Severe degenerative changes are noted 
at the shoulders. There is a compression deformity in the 
midthoracic spine vertebrae, unchanged from prior exam
IMPRESSION: Bibasilar opacities which likely represent 
atelectasis, but aspiration or infection cannot be completely 
excluded.

# CTA CHEST W&W/O C&RECONS, NON-CORONARY Study Date of ___
wet read:
No PE. Aortic atherosclerosis. Mild cardiomegaly. Calcified 
granulomas.
Minimal atelectasis at lung bases. Severe OA bilat shoulders.
EKG: sinus at 60, nl axis, nl intervals, poor R wave progression

DISCHARGE LABS
___ 05:55AM BLOOD WBC-3.1* RBC-3.03* Hgb-9.0* Hct-30.1* 
MCV-99* MCH-29.5 MCHC-29.8* RDW-15.2 Plt ___
___ 05:55AM BLOOD Glucose-76 UreaN-20 Creat-0.8 Na-141 
K-4.6 Cl-103 HCO3-29 AnGap-14
___ 05:55AM BLOOD ALT-19 AST-39 LD(LDH)-204 AlkPhos-57 
Amylase-102* TotBili-0.1
___ 05:55AM BLOOD Lipase-80*
___ 05:55AM BLOOD Albumin-2.9* Calcium-9.0 Phos-4.3 Mg-2.___ yo female with GIB, HA, HTN, Kidney stones, OA, osteopenia 
who presents with hypoxia, ? syncope.

ACTIVE ISSUES
# pre-syncope: It is unclear if pt had true syncopal event, as 
it does not seem like there was loss of consciousness. Her 
episode of decreased responsiveness may have been secondary to 
hypoxia, as her O2 sat wast noted to be 63% on room air at the 
time. It is unclear whether they were able to obtain a 
consistent pleth at the time of this reading. Cardiac etiology 
also possible, as pt has mildly elevated troponin to 0.04, 
though no EKG changes. Description of event is not consistent 
with seizure activity. Arrythmia also possible, though no 
history of such. Pt's daughter reports poor PO intake over 
previous day so orthostasis/hypotension also a possibility. 
Patient was monitor on tele with no notable arrythmias. Her 
troponins were trended and while there were noted to be mildly 
elevated, they remained flat and at her baseline per OMR, she 
was ruled out for an MI. A UA was also obtained and was negative 
for a UTI. 

# hypoxia: Unclear if pt was actually hypoxic at HCA, as it was 
noted that she had difficult to read pulse ox in the ED. On the 
floor, pt is satting well on RA with clear lungs and no evidence 
of pneumonia or pulmonary edema, no PE on CTA. Family also 
denies any fevers at home. They do report coughing with food, 
which has been a long standing issue for patient so it is 
possible that she had an aspiration event leading to temporary 
hypoxia. MI was ruled out with stable troponins and MBs. She was 
continued on pureed solids and thin liquids per home diet for as 
an inpatient and did not have any events that would be 
concerning for aspiration. She was not started on antibiotics as 
there was no evidence of pneumonia currently

# left sided chest pain: When examined by the inpatient team on 
admission pt is resting comfortably and endorses pain associated 
with prior rib fractures, and chronic L shoulder pain, though 
family reports that pain earlier today was different in 
character. It is possible that with movement getting to clinic 
she exacerbated prior rib pain. She was continued on a lidocaine 
patch for rib pain with standing tylenol. She was ruled out for 
an MI and her narcotic pain medications given that pt currently 
appeared comfortable.

# diffuse abdominal pain: noted on exam on the day of discharge, 
but inconsistent exam throughout the day and by other members of 
the team. Likely constipation or gas pain given patient's age 
and non-focal nature. LFTs amylase and lipase were added on to 
AM labs and were wnl.

CHRONIC ISSUES
# osteoarthritis: Pt has severe osteoarthritis, previously on 
percocet at home though this was discontinued by a physician 
recently given concern about opioid use given pt's age. She was 
placed on standing tylenol and her gabapentin was decreased from 
300 mg TID to ___ mg daily given creatinine clearance
# GERD: continued on omeprazole
# hypothyroid: continued on levothyroxine

TRANSITIONAL ISSUES
# patient admitted for presyncope and r/o MI; had neg troponins, 
no ST changes on EKG, no events on tele, and neg UA
# per discussion with daughter, would like to see a geriatrician 
as her PCP and was interested in changing PCPs
# please follow up UCx
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. Gabapentin 300 mg PO TID 
3. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
4. Levothyroxine Sodium 100 mcg PO 1X/WEEK (MO) 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
6. Omeprazole 40 mg PO DAILY 
7. QUEtiapine Fumarate 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. Gabapentin 300 mg PO TID 
3. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
4. Levothyroxine Sodium 100 mcg PO 1X/WEEK (MO) 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
6. Omeprazole 40 mg PO DAILY 
7. QUEtiapine Fumarate 25 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnosis: presyncopal episode of non-cardiac origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the general ___ medical service for 
evaluation of your chest pain and possible fainting event. You 
were monitored on telemetry and your heart was evaluated. We do 
not think that you had a heart attack or an abnormal heart 
rhythm. We think the pain that you were complaining of may be a 
combination of your chronic left shoulder pain and left rib pain 
from your fall earlier this year. We also did a study to look at 
your urine, and it does not look like you have a urinary tract 
infection. You have remained stable in the hospital, with no 
fevers, and no further episodes of chest pain or fainting. You 
have been medically cleared to go home.

Please resume all of your medications as prescribed. Please 
follow up with your new geriatrician at the appointment listed 
below. 

It was a pleasure taking care of you!
 
Followup Instructions:
___